US06685995B1
To the Grignard reagent which was prepared from 2.31 g (95.1 mmol) of dried magnesium and 25.0 g (95.0 mmol) of 4-benzyloxy-bromobenzene in 300 ml of THF, was added dropwise 100 ml of solution of 21.0 g (88.8 mmol) of 4-(4-n-butylcyclohexyl)-cyclohexanone in THF at room temperature, and the mixture was stirred at the same temperature for 12 hours. The reaction solution was added to 500 ml of 0.5N hydrochloric acid, the product thus formed was extracted with ether, the extract was washed with saturated aqueous sodium bicarbonate solution and water in this turn, and then the solvent was distilled off. After the residue was purified by column chromatography on silica gel (eluent: toluene), the solvent was distilled off, and the residue was recrystallized from toluene to give 11.8 g (28.1 mmol) of 4-(4-(4-n-butyl-cyclohexyl(-1-hydroxycyclohexyl)-1-benzyloxybenzene. Yield of this compound based on 4-(4-n-butylcyclohexyl)cyclohexanone was 31.6%.

reactant | magnesium | 95.1 mmol, 2.31 g | [Mg] | Mg
reactant | 4-benzyloxy-bromobenzene | 95.0 mmol, 25.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)Br | C13H11BrO
reactant | 4-(4-n-butylcyclohexyl)-cyclohexanone | 88.8 mmol, 21.0 g | C(CCC)C1CCC(CC1)C1CCC(CC1)=O | C16H28O
reactant | hydrochloric acid | 0.5N, 500 ml | Cl | ClH
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 4-n-butyl-cyclohexyl(-1-hydroxycyclohexyl)-1-benzyloxybenzene | C(CCC)C1CCC(CC1)C=1C(=C(C=CC1)OCC1=CC=CC=C1)C1(CCCCC1)O | C29H40O2
